Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:13](\[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18],-1.77298633398
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.92850994621
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],0.548361579019
[C:2]([H:3])=[C:4]([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.8797907233599975
[C:8][O:9][H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10],-4.1559923144300015
[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-1.6600074059
[H:1]/[C:2]([C:3][H:4])=[C:5](/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]1=[C:3]([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.53696056535
[H:8].[O:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.61210540027
[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:12][H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-4.71110101877
[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.65471334591
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:3][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:4],3.5281784809
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:8]([H:9])=[C:10]([H:11])[H:12].[H:7],3.678482894130002
[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-3.78105793471
[C:2]([H:3])#[C:4][O:5][C:6]([H:7])[H:8].[O:1]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[H:8],-3.61791132817
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6]#[C:7],7.04222422372
[O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-6.56367150135
[O:1]=[C:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],1.67611485865
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:5],1.75657642005
[C:6]#[C:7][H:8].[H:1][C:2][O:3][C:4]([H:5])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.350331130940001
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-2.6892388465900003
[C:11]([H:12])[H:13].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-5.52102206895
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2][O:3][H:4],1.27620226453
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.9470958343
[C:2]([H:3])=[C:4]([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-7.82855223469
[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.67799244809
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][H:9].[H:7],3.58855372906
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.98483992552
[C:4]([H:5])(=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.18666057707000006
[H:1][O:2][C:3]([H:4])[H:5]>>[H:1].[O:2]=[C:3]([H:4])[H:5],1.66967084085
